US06562814B2
4-(5-Chloro-2-methylphenyl)-2-ethyl-3-thioxo-[1,2,4]oxadiazinan-5-one
A mixture of 5-chloro-2-methylphenyl-isothiocyanate (9.18 g), N-methyl aminooxy acetic acid hydrochloride (7.78 g), triethylamine (20 g) and chloroform (200 mL) was heated at reflux for one hour, stirred at ambient temperature for one hour, then evaporated to dryness. The residue was dissolved in ethyl acetate (400 mL) and washed with 2N HCl (2×200 mL) then with water (200 mL). The organic phase was dried over anhydrous magnesium sulfate and evaporated to dryness The residue (8 g) was dissolved in benzene (150 mL). Phosphorus pentachloride (7 g) was added in portions. The mixture was heated at reflux for one hour then evaporated to dryness. The residue was dissolved in ethyl acetate (300 mL) and washed with sodium bicarbonate saturated solution (2×200 mL) then with water (200 mL). The organic phase was dried over anhydrous magnesium sulfate and evaporated to dryness. The residue was chromatographed on silica gel (10-20% ethyl acetate in hexane). Crystallization from ethyl acetate/hexane afforded the title compound (2.1 g) as a solid, m.p. 119-121° C. Mass spectrum (El, M.+) m/z 282/284. 1H-NMR (CDCl3; 400 MHz) δ7.32 (d, 1H), 7.23 (d, 1H), 7.13 (s, 1H), 4.81 (ABq, 2H), 4.26 (m, 2H), 2.13 (s, 3H), and 1.40 ppm (t, 3H).

reactant | 5-chloro-2-methylphenyl-isothiocyanate | 9.18 g | ClC=1C=CC(=C(C1)N=C=S)C | C8H6ClNS
reactant | N-methyl aminooxy acetic acid hydrochloride | 7.78 g | Cl.CNOCC(=O)O
reactant | triethylamine | 20 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-(5-Chloro-2-methylphenyl)-2-ethyl-3-thioxo-[1,2,4]oxadiazinan-5-one | 2.1 g | ClC=1C=CC(=C(C1)N1C(N(OCC1=O)CC)=S)C | C12H13ClN2O2S
